US07425568B2
a) 1-[2,5-Bis(benzyloxy)phenyl]ethanone
A mixture of 1-(2,5-dihydroxyphenyl)ethanone (3.16 g), benzyl chloride (7.04 g), potassium carbonate (12.4 g) and 18-Crown-6 (30 mg) in 2-butanone (50 ml) was heated under reflux for 5 hrs. After cooling the precipitate was filtered off. The filtrate was evaporated to dryness under reduced pressure and ether (50 ml) was added to it. The solution was washed twice with dilute sodium hydroxide solution, twice with dilute hydrochloric acid, dried over sodium sulphate and substantially evaporated to dryness under reduced pressure. The residue was triturated with cold n-heptane (30 ml), and the precipitate was filtered off with suction filtration giving after drying 2.85 g of 1-[2,5-Bis(benzyloxy)phenyl]ethanone. 1H NMR (400 MHz, DMSO-d6) δ=2.50 (s, 3H), 5.08 (s, 2H), 5.18 (s, 2H), 7.20-7.50 (m, 13H).

reactant | 1-(2,5-dihydroxyphenyl)ethanone | 3.16 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | benzyl chloride | 7.04 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 12.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-Crown-6 | 30 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | 1-[2,5-Bis(benzyloxy)phenyl]ethanone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(C)=O | C22H20O3
